### PR TITLE
[Merged by Bors] - feat(Algebra/BigOperators/Order): prod_lt_prod

### PR DESCRIPTION
**Pull request by amellendijk**
Add a product variant of [mul_lt_mul](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Order/Ring/Defs.html#mul_lt_mul), following the pattern of [Finset.prod_lt_prod'](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/BigOperators/Order.html#Finset.prod_lt_prod'). This fills in a gap between [Finset.prod_le_prod](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/BigOperators/Order.html#Finset.prod_le_prod), [Finset.prod_le_prod'](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/BigOperators/Order.html#Finset.prod_le_prod') and [Finset.prod_lt_prod'](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/BigOperators/Order.html#Finset.prod_lt_prod').

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/BigOperators/Order.lean [hunk 1]
```diff
@@ -642,13 +642,31 @@ end OrderedCommSemiring
 
 section StrictOrderedCommSemiring
 
-variable [StrictOrderedCommSemiring R] [Nontrivial R] {f : ι → R} {s : Finset ι}
```
Comment (FLDutchmann) [inline Mathlib/Algebra/BigOperators/Order.lean:645]: `Nontrivial` is implied by `StrictOrderedCommSemiring`

File: Mathlib/Algebra/BigOperators/Order.lean [hunk 2]
```diff
@@ -642,13 +642,31 @@ end OrderedCommSemiring
...
+variable [StrictOrderedCommSemiring R] {f : ι → R} {s : Finset ι}
```
Comment (FLDutchmann) [inline Mathlib/Algebra/BigOperators/Order.lean:645]: `Nontrivial` is implied by `StrictOrderedCommSemiring`

File: Mathlib/Algebra/BigOperators/Order.lean [hunk 3]
```diff
@@ -642,13 +642,31 @@ end OrderedCommSemiring
...
+  rw [← insert_erase hi, prod_insert (not_mem_erase _ _), prod_insert (not_mem_erase _ _)]
+  apply mul_lt_mul hilt
+  · exact prod_le_prod (fun j hj => le_of_lt (hf j (mem_of_mem_erase hj)))
+      (fun _ hj ↦ hfg _ <| mem_of_mem_erase hj)
+  · exact prod_pos fun j hj => hf j (mem_of_mem_erase hj)
+  · exact le_of_lt <| (hf i hi).trans hilt
+
+theorem prod_lt_prod_of_nonempty {t : Finset ℕ} {f g : ℕ → R} (hf : ∀ i ∈ t, 0 < f i)
+    (hfg : ∀ i ∈ t, f i < g i) (h_ne : t.Nonempty) :
+    ∏ i in t, f i < ∏ i in t, g i := by
```
Comment (fpvandoorn) [inline Mathlib/Algebra/BigOperators/Order.lean:665]: maybe `∏ i in t, f i < ∏ i in t, g i ↔ t.Nonempty`

**Review by fpvandoorn — APPROVED** [review]
LGTM

two suggestions, if you think they're useful.

File: Mathlib/Algebra/BigOperators/Order.lean [hunk 4]
```diff
@@ -642,13 +642,31 @@ end OrderedCommSemiring
...
+variable [StrictOrderedCommSemiring R] {f : ι → R} {s : Finset ι}
 
 -- This is also true for an ordered commutative multiplicative monoid with zero
 theorem prod_pos (h0 : ∀ i ∈ s, 0 < f i) : 0 < ∏ i in s, f i :=
   prod_induction f (fun x ↦ 0 < x) (fun _ _ ha hb ↦ mul_pos ha hb) zero_lt_one h0
 #align finset.prod_pos Finset.prod_pos
 
+theorem prod_lt_prod {t : Finset ℕ} {f g : ℕ → R} (hf : ∀ i ∈ t, 0 < f i)
+    (hfg : ∀ i ∈ t, f i ≤ g i) (hlt : ∃ i ∈ t, f i < g i) :
+    ∏ i in t, f i < ∏ i in t, g i := by
```
[the remark this answers is not in the document]
Comment (FLDutchmann) [reply Mathlib/Algebra/BigOperators/Order.lean]: I could see this being nicer, but surely we'd want to be consistent with [Finset.prod_lt_prod'](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/BigOperators/Order.html#Finset.prod_lt_prod'). In my mind we could either

1. Leave it as is
2. change `prod_lt_prod'` too and fix any breakage
3. also add this variant as `prod_lt_prod_iff` (and `prod_lt_prod_iff'`)
4. let the two be inconsistent.

In my mind 1 or 3 seem preferable but I'd love to know what others think.

**Comment by fpvandoorn** [comment]
I'm fine with both options 1 and 3. Let's merge this now, and feel free to open a new PR doing 3.

bors merge
